US04433149
To a solution of potassium hydroxide pellets (10.0 mmol) dissolved in ethanol (50 ml) is added ethyl P-methyl-2-nitro-5-chlorophenylphosphinate (20.0 mmol). The mixture is boiled for 48 hours and is then concentrated to a slurry. The residue is diluted with water, acidified with 10% HCl and extracted with ethyl acetate (2X). The combined extracts are washed with brine, dried and evaporated to yield ethyl P-methyl-2-nitro-5-ethoxyphenylphosphinate.

reactant | potassium hydroxide | [OH-].[K+]
reactant | ethyl P-methyl-2-nitro-5-chlorophenylphosphinate | 20.0 mmol | CP(OCC)(=O)C1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C9H11ClNO4P
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl P-methyl-2-nitro-5-ethoxyphenylphosphinate | CP(OCC)(=O)C1=C(C=CC(=C1)OCC)[N+](=O)[O-] | C11H16NO5P
